US07834051B2
rac-2-chloro-4-[(4R,5R)-5-ethyl-4-hydroxy-3,3-dimethyl-2-oxopyrrolidin-1-yl]-3-methylbenzonitrile
Using 2-chloro-4-(5-ethyl-3,3-dimethyl-2,4-dioxopyrrolidin-1-yl)-3-methylbenzonitrile (310 mg) and lithium tri(sec-butyl)borohydride-THF solution (1.53 mL, 1 mol/L), and in the same manner as in Example 5, the title compound was obtained as a colorless solid (yield: 211 mg, 68%).

reactant | 2-chloro-4-(5-ethyl-3,3-dimethyl-2,4-dioxopyrrolidin-1-yl)-3-methylbenzonitrile | 310 mg | ClC1=C(C#N)C=CC(=C1C)N1C(C(C(C1CC)=O)(C)C)=O | C16H17ClN2O2
reactant | lithium tri(sec-butyl)borohydride THF | 1 mol/L, 1.53 mL | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+].C1CCOC1
product | rac-2-chloro-4-[(4R,5R)-5-ethyl-4-hydroxy-3,3-dimethyl-2-oxopyrrolidin-1-yl]-3-methylbenzonitrile | ClC1=C(C#N)C=CC(=C1C)N1C(C([C@H]([C@H]1CC)O)(C)C)=O | C16H19ClN2O2
